US04992433
A mixture of 6 parts of 1-(6-chloro-3-pyridazinyl)-4-piperidinepropanol, 1.9 parts of sodium acetate and 150 parts of acetic acid was stirred for 4 hours at reflux temperature. The reaction mixture was evaporated and the residue was taken up in 200 parts of a hydrochloric acid solution 10%. After stirring for 1 hour at reflux temperature, the whole was evaporated. The residue was taken up in water and treated with ammonium hydroxide. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated, yielding a first fraction of 6-[4-(3-hydroxypropyl)-1-piperidinyl]-3(2H)-pyridazinone; From the remaining aqueous layer, the precipitated product was filtered off and crystallized from 2-propanol. The product was filtered off and dried at 60° C., yielding a second fraction of the desired intermediate.

reactant | 1-(6-chloro-3-pyridazinyl)-4-piperidinepropanol | ClC1=CC=C(N=N1)N1CCC(CC1)CCCO | C12H18ClN3O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-[4-(3-hydroxypropyl)-1-piperidinyl]-3(2H)-pyridazinone | OCCCC1CCN(CC1)C=1C=CC(NN1)=O | C12H19N3O2
